US07456164B2
(R)-2-Methoxymethyl-1-{4-[4-(3-pyrrolidin-1-yl-propoxy)-phenyl]-tetrahydro-pyran-4-ylmethyl}-pyrrolidine
4-[4-(3-Pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-carbaldehyde (500 mg, 1.575 mmol), (R)-2-(methoxymethyl)pyrrolidine (347 mg, 4.21 mmol), absolute ethanol (20 ml), activated 3 Å molecular sieves (500 mg), titanium (IV) isopropoxide (2.33 ml, 7.88 mmol) and STAB (2.84 g, 13.4 mmol) were reacted in accordance with the general procedure D. The isolated waxy solid was purified by column chromatography on silica eluting with DCM:MeOH:NH3 95:14:1 to give the title compound as a viscous pale yellow oil (390 mg, 59%). 1H NMR (400 MHz, CDCl3) δ7.18 (d, 2H), 6.86 (d, 2H), 4.02 (t, 2H), 3.85-3.69 (m, 2H), 3.59 (td, 1H), 3.45 (td, 1H), 3.27 (s, 3H), 3.10 (dd, 1H), 3.02 (dd, 1H), 2.94 (d, 1H), 2.63 (t, 2H), 2.58-2.45 (m, 6H), 2.39 (m, 1H), 2.21 (m, 1H), 2.07-1.67 (m, 11H), 1.57-1.33 (m, 3H).

reactant | 4-[4-(3-Pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-carbaldehyde | 1.575 mmol, 500 mg | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)C=O | C19H27NO3
reactant | (R)-2-(methoxymethyl)pyrrolidine | 4.21 mmol, 347 mg | COC[C@@H]1NCCC1 | C6H13NO
catalyst | titanium (IV) isopropoxide | 7.88 mmol, 2.33 ml | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | (R)-2-Methoxymethyl-1-{4-[4-(3-pyrrolidin-1-yl-propoxy)-phenyl]-tetrahydro-pyran-4-ylmethyl}-pyrrolidine | 390 mg, 59% | COC[C@@H]1N(CCC1)CC1(CCOCC1)C1=CC=C(C=C1)OCCCN1CCCC1 | C25H40N2O3
